US07834051B2
2-chloro-4-[(2S,3S,4S)-2-ethyl-3-hydroxy-4-methyl-5-oxopyrrolidin-1-yl]benzonitrile
To absolution of diisopropylamine (0.111 mL) in tetrahydrofuran (5 mL) was added dropwise n-butyllithium-hexane solution (0.472 mL, 1.6 mol/L) at −78° C., the mixture was stirred for 1 hr, and a solution of 2-chloro-4-[(2S,3S)-2-ethyl-3-hydroxy-5-oxopyrrolidin-1-yl]benzonitrile (80 mg) in tetrahydrofuran (3 mL) was added dropwise. The mixture was stirred at −78° C. for 30 min, iodomethane (0.100 mL) was added dropwise at −78° C., and the mixture was stirred at 0° C. for 2 hr. Acetic acid (0.500 mL) was added dropwise to the reaction mixture, water was added, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=50/1→1/3) to give the title compound as a colorless solid (yield: 10.8 mg, 13%).

reactant | diisopropylamine | 0.111 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-chloro-4-[(2S,3S)-2-ethyl-3-hydroxy-5-oxopyrrolidin-1-yl]benzonitrile | 80 mg | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@H](CC1=O)O)CC | C13H13ClN2O2
reactant | iodomethane | 0.100 mL | IC | CH3I
reactant | Acetic acid | 0.500 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-chloro-4-[(2S,3S,4S)-2-ethyl-3-hydroxy-4-methyl-5-oxopyrrolidin-1-yl]benzonitrile | yield: 10.8 mg, 13% | ClC1=C(C#N)C=CC(=C1)N1[C@H]([C@H]([C@@H](C1=O)C)O)CC | C14H15ClN2O2
